US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidinepentanamide
A solution of 6.1 g (0.020 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 3.7 g (0.025 mole) of 5-chloro-N-methylpentanamide, 8.5 g (0.080 mole) of anhydrous sodium carbonate and 0.4 g (0.002 mole) of potassium iodide in 100 mL of N,N-dimethylformamide was heated on a steam bath for 24 h. The mixture was poured into 1.5 L of water and extracted twice with 500 ml portions of ethyl acetate. The ethyl acetate portions were combined, washed with water and brine, dried (MgSO4) and concentrated under reduced pressure to give a golden oil. The oil was dissolved in ethyl ether and allowed to stand, whereupon a white solid precipitated. The solid was collected by filtration, and recrystallized from ethyl ether to yield 5.9 g (71%) of white solid, mp 130°-131° C.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.020 mole, 6.1 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 5-chloro-N-methylpentanamide | 0.025 mole, 3.7 g | ClCCCCC(=O)NC | C6H12ClNO
reactant | sodium carbonate | 0.080 mole, 8.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.4 g | [I-].[K+]
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | water | 1.5 L | O | H2O
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-N-methyl-1-piperidinepentanamide | 5.9 g, 71% | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCCC(=O)NC)(O)C1=CC=C(C=C1)F | C24H30F2N2O2
